US04720580
N-[2-[bis(1-methylethyl)amino]ethyl]-3,4-dimethoxy-N-(1-methylethyl)-benzenesulfonamide
3,4-Dimethoxybenzene sulfonyl chloride, prepared from veratrole and chlorosulfonic acid was reacted with N,N,N'-triisopropyl ethylene diamine following the procedure of Example 1. The reaction was worked up and the crude product chromatographed on alumina with ethyl acetate. The pure product was obtained, m.r. 69°-71° C.

reactant | 3,4-Dimethoxybenzene sulfonyl chloride | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | veratrole | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | N,N,N'-triisopropyl ethylene diamine | C(C)(C)N(CCNC(C)C)C(C)C | C11H26N2
product | N-[2-[bis(1-methylethyl)amino]ethyl]-3,4-dimethoxy-N-(1-methylethyl)-benzenesulfonamide | CC(C)N(CCN(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(C)C)C(C)C | C19H34N2O4S
